US20010008892A1
5-Thiazolylmethyl-[(1S)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-(phenylmethyl)-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate
The title compound was prepared in two steps. First, 5-thiazolylmethyl-[(1S)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-[1,1-dimethylethyloxy(carbonyl)]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate was treated with trifluoroacetic acid according to the method described in Example 1D. This was followed by akylation of the product according to the method of Example 1E, substituting benzyl bromide in place of 3,4-dioxomethylenebenzyl chloride.

reactant | 5-thiazolylmethyl-[(1S)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-[1,1-dimethylethyloxy(carbonyl)]-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate | S1C=NC=C1COC(N[C@@H](C(C)C)C(=O)N[C@H]([C@@H](CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1)=O | C34H52N6O7S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 5-Thiazolylmethyl-[(1S)-1-[[[(1S,2R)-3-[(2S)-2-[[(1,1-dimethylethyl)amino]carbonyl]-4-(phenylmethyl)-1-piperazinyl]-2-hydroxy-1-(phenylmethyl)propyl]amino]carbonyl]-2-methylpropyl]carbamate | S1C=NC=C1COC(N[C@@H](C(C)C)C(=O)N[C@H]([C@@H](CN1[C@@H](CN(CC1)CC1=CC=CC=C1)C(=O)NC(C)(C)C)O)CC1=CC=CC=C1)=O | C36H50N6O5S
